US06541638B2
A solution of 800 mg (1.38 mmol) (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid and 390 mg (1.66 mmol) crude phenethylamino-acetic acid tert-butyl ester in 14 ml THF was cooled to 0° C. and treated with 318 mg (1.66 mmol) EDCI and 19 mg (0.14 mmol) HOBT. The reaction was warmed up to RT over night and partitioned between aqueous 10% KHSO4/ethyl acetate (3×). The organic phases were washed with aqueous saturated NaHCO3 solution and dried over Na2SO4. Purification by flash-chromatography on silicagel (Hexane/EtOAc 4:1 to 1:1) gave 290 mg (26%) (2S,4R)-{[1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carbonyl]-phenethyl-amino}-acetic acid tert-butyl ester, MS: 797 (MH+)

reactant | (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid | 1.38 mmol, 800 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C34H29NO4S2
reactant | phenethylamino-acetic acid tert-butyl ester | 1.66 mmol, 390 mg | C(C)(C)(C)OC(CNCCC1=CC=CC=C1)=O | C14H21NO2
reactant | EDCI | 1.66 mmol, 318 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.14 mmol, 19 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 14 ml | C1CCOC1 | C4H8O
product | (2S,4R)-{[1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carbonyl]-phenethyl-amino}-acetic acid tert-butyl ester | 290 mg, 26% | C(C)(C)(C)OC(CN(CCC1=CC=CC=C1)C(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C48H48N2O5S2
